US05686402
Preparation of 2-Hydroxypropylene Dicysteate (HPDC)
24 g (0.128 mol) of cysteic acid is dissolved in 160 ml of water and 10.2 g (0.255 mol) of sodium hydroxide is added. After dissolution, 6.8 g (0.064) sodium carbonate is added, followed by 80 ml ethanol. While refluxing the solution, 16.8 g (0.077 mol) 1,3-dibromo-2-propanol is added gradually during a period of 4 hours, followed by refluxing overnight. An additional 16.8 g (0.077 mol) of 1,3-dibromo-2-propanol is added, followed by all-day reflux. The solution is distilled to remove solvents and the resulting solid which contains HPDC and other materials is recovered and triturated with methanol/water. The purified solid is triturated again with methanol only and stirred overnight to remove residual materials, followed by dissolution in 10 cc water. Adjustment of the solution pH to 3-5 precipitates out pure HPDC.

reactant | cysteic acid | 0.128 mol, 24 g | N[C@@H](CS(=O)(O)=O)C(=O)O | C3H7NO5S
reactant | sodium hydroxide | 0.255 mol, 10.2 g | [OH-].[Na+]
reactant | sodium carbonate | 6.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,3-dibromo-2-propanol | 0.077 mol, 16.8 g | BrCC(CBr)O | C3H6Br2O
reactant | 1,3-dibromo-2-propanol | 0.077 mol, 16.8 g | BrCC(CBr)O | C3H6Br2O
solvent | water | 160 ml | O | H2O
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2-Hydroxypropylene Dicysteate | N[C@@H](CS(=O)(O)=O)C(=O)OCC(C)(O)OC([C@@H](N)CS(=O)(O)=O)=O | C9H18N2O11S2
